### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization/FractionRing): Lifting `AlgEquiv`s to the field of fractions

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds some API for lifting `AlgEquiv`s to the field of fractions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 1]
```diff
@@ -226,6 +226,67 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
         mem_nonZeroDivisors_iff_ne_zero, mem_nonZeroDivisors_iff_ne_zero]
       exact h.symm.map_ne_zero_iff)
 
+@[simp]
+lemma fieldEquivOfRingEquiv_commutes [Algebra B L] [IsFractionRing B L] (h : A ≃+* B)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Localization/FractionRing.lean:230]: I think
```suggestion
lemma fieldEquivOfRingEquiv_algebraMap [Algebra B L] [IsFractionRing B L] (h : A ≃+* B)
```
is more in line with our naming conventions

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 2]
```diff
@@ -226,6 +226,67 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+  [Algebra A L] [IsScalarTower A B L]
+  [Algebra A M] [IsScalarTower A C M]
+  [Algebra K L] [IsScalarTower A K L]
+  [Algebra K M] [IsScalarTower A K M]
+
+/-- An algebra isomorphism of rings induces an algebra isomorphism of fraction fields. -/
+noncomputable def fieldEquivOfAlgEquiv (f : B ≃ₐ[A] C) : L ≃ₐ[K] M where
+  __ := IsFractionRing.fieldEquivOfRingEquiv f.toRingEquiv
+  commutes' := by
+    intro x
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Localization/FractionRing.lean:252]:
```suggestion
  commutes' x := by
```

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 3]
```diff
@@ -226,6 +226,67 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+    obtain ⟨x, y, -, rfl⟩ := IsFractionRing.div_surjective (A := A) x
+    simp_rw [map_div₀, ← IsScalarTower.algebraMap_apply, IsScalarTower.algebraMap_apply A B L]
+    simp [← IsScalarTower.algebraMap_apply A C M]
+
+@[simp]
+lemma fieldEquivOfAlgEquiv_commutes (f : B ≃ₐ[A] C) (b : B) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Localization/FractionRing.lean:258]: Ditto

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 4]
```diff
@@ -226,6 +226,67 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+  [Algebra A L] [IsScalarTower A B L] [Algebra K L] [IsScalarTower A K L]
+
+/-- An algebra automorphism of a ring induces an algebra automorphism of its fraction field. -/
+noncomputable def fieldEquivOfAlgEquivHom : (B ≃ₐ[A] B) →* (L ≃ₐ[K] L) where
+  toFun := fieldEquivOfAlgEquiv K L L
+  map_one' := by
+    ext x
+    obtain ⟨x, y, -, rfl⟩ := IsFractionRing.div_surjective (A := B) x
+    simp
+  map_mul' := fun f g ↦ by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Localization/FractionRing.lean:278]:
```suggestion
  map_mul' f g := by
```

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 5]
```diff
@@ -226,6 +226,67 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+    ext x
+    obtain ⟨x, y, -, rfl⟩ := IsFractionRing.div_surjective (A := B) x
+    simp
+
+@[simp]
+lemma fieldEquivOfAlgEquivHom_commutes (f : B ≃ₐ[A] B) (b : B) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Localization/FractionRing.lean:284]: Ditto

File: Mathlib/RingTheory/WittVector/FrobeniusFractionField.lean [hunk 6]
```diff
@@ -242,8 +242,6 @@ theorem exists_frobenius_solution_fractionRing_aux (m n : ℕ) (r' q' : 𝕎 k)
       (IsFractionRing.injective (𝕎 k) (FractionRing (𝕎 k))).ne hq'''
   rw [zpow_sub₀ (FractionRing.p_nonzero p k)]
   field_simp [FractionRing.p_nonzero p k]
-  simp only [IsFractionRing.fieldEquivOfRingEquiv, IsLocalization.ringEquivOfRingEquiv_eq,
-    RingEquiv.coe_ofBijective]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/WittVector/FrobeniusFractionField.lean:246]: What happened here?

Comment (tb65536) [reply Mathlib/RingTheory/WittVector/FrobeniusFractionField.lean:246]: In the absence of API, the alternative was to simply unfold the definitions until simp could take care of it. With the API, this is no longer necessary.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 7]
```diff
@@ -226,6 +226,66 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+/-- An algebra isomorphism of rings induces an algebra isomorphism of fraction fields. -/
+noncomputable def fieldEquivOfAlgEquiv (f : B ≃ₐ[A] C) : L ≃ₐ[K] M where
+  __ := IsFractionRing.fieldEquivOfRingEquiv f.toRingEquiv
+  commutes' x := by
+    obtain ⟨x, y, -, rfl⟩ := IsFractionRing.div_surjective (A := A) x
+    simp_rw [map_div₀, ← IsScalarTower.algebraMap_apply, IsScalarTower.algebraMap_apply A B L]
+    simp [← IsScalarTower.algebraMap_apply A C M]
+
+@[simp]
+lemma fieldEquivOfAlgEquiv_algebraMap (f : B ≃ₐ[A] C) (b : B) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/FractionRing.lean:257]: Can you add a comment explaining the relationship between this and `(fieldEquivOfAlgEquiv f).commutes` (ie, the rings involved), or maybe draw some commutative diagram if you think that is appropriat ehere?

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 8]
```diff
@@ -226,6 +226,66 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+end fieldEquivOfAlgEquiv
+
+section fieldEquivOfAlgEquivHom
+
+variable {A B : Type*} [CommRing A] [CommRing B] [IsDomain A] [IsDomain B] [Algebra A B]
+  (K L : Type*) [Field K] [Field L]
+  [Algebra A K] [Algebra B L] [IsFractionRing A K] [IsFractionRing B L]
+  [Algebra A L] [IsScalarTower A B L] [Algebra K L] [IsScalarTower A K L]
+
+/-- An algebra automorphism of a ring induces an algebra automorphism of its fraction field. -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/FractionRing.lean:270]:
```suggestion
/-- An algebra automorphism of a ring induces an algebra automorphism of its fraction field.

This is a bundled version of `fieldEquivOfAlgEquiv`. -/
@[simps]
```

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 9]
```diff
@@ -226,6 +226,66 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+noncomputable def fieldEquivOfAlgEquivHom : (B ≃ₐ[A] B) →* (L ≃ₐ[K] L) where
+  toFun := fieldEquivOfAlgEquiv K L L
+  map_one' := by
+    ext x
+    obtain ⟨x, y, -, rfl⟩ := IsFractionRing.div_surjective (A := B) x
+    simp
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/FractionRing.lean:276]: Can you prove this and `map_mul` separately as `fieldEquivOfAlgEquiv_refl` and `fieldEquivOfAlgEquiv_trans`?

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 10]
```diff
@@ -226,6 +226,82 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+This is a bundled version of `fieldEquivOfAlgEquiv`. -/
+noncomputable def fieldEquivOfAlgEquivHom : (B ≃ₐ[A] B) →* (L ≃ₐ[K] L) where
+  toFun := fieldEquivOfAlgEquiv K L L
+  map_one' := fieldEquivOfAlgEquiv_refl A B K L
+  map_mul' f g := fieldEquivOfAlgEquiv_trans K L L L g f
+
+@[simp]
+lemma fieldEquivOfAlgEquivHom_algebraMap (f : B ≃ₐ[A] B) (b : B) :
+    fieldEquivOfAlgEquivHom K L f (algebraMap B L b) = algebraMap B L (f b) :=
+  fieldEquivOfAlgEquiv_algebraMap K L L f b
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/FractionRing.lean:301]: Rather than repeating the lemma, I think it makes sense to provide one that undoes a layer of bundling:
```suggestion
@[simp]
lemma fieldEquivOfAlgEquivHom_apply (f : B ≃ₐ[A] B) :
    fieldEquivOfAlgEquivHom K L f = fieldEquivOfAlgEquiv K L L f :=
  rfl
```

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 11]
```diff
@@ -226,6 +226,82 @@ noncomputable def fieldEquivOfRingEquiv [Algebra B L] [IsFractionRing B L] (h :
...
+
+section fieldEquivOfAlgEquiv
+
+variable {A B C D : Type*}
+  [CommRing A] [CommRing B] [CommRing C] [CommRing D]
+  [IsDomain A] [IsDomain B] [IsDomain C] [IsDomain D]
+  [Algebra A B] [Algebra A C] [Algebra A D]
+  (K L M O : Type*) [Field K] [Field L] [Field M] [Field O]
+  [Algebra A K] [Algebra B L] [Algebra C M] [Algebra D O]
+  [IsFractionRing A K] [IsFractionRing B L] [IsFractionRing C M] [IsFractionRing D O]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/FractionRing.lean:242]: What would your thoughts be on changing this to something like
```suggestion
  [IsFractionRing A Af] [IsFractionRing B Bf] [IsFractionRing C Cf] [IsFractionRing D Df]
```
or
```suggestion
  [IsFractionRing A KA] [IsFractionRing B KB] [IsFractionRing C KC] [IsFractionRing D KD]
```
which makes it a bit easier to keep track of the 8 variables.

**Review by eric-wieser — COMMENTED** [review]
Oh, and also

bors d+

File: Mathlib/RingTheory/Localization/FractionRing.lean (hunk 11 above)
Comment (tb65536) [reply Mathlib/RingTheory/Localization/FractionRing.lean]: Sure. I switched to `FA`, `FB`, `FC`, `FD`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
